US04165372
A mixture of 7.8 g (0.0225 mole) of 6-bromo-7,8-methylenedioxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine in toluene was added to a mixture of 2.2 ml (6.07 mole) of butyl lithium diluted with 100 ml of ethyl ether at -78°. Then, 10 ml of N-methylformanilide was added. After stirring for 1 hour at -78°, the cooling bath was removed and 100 ml of 10% hydrochloric acid was added. After stirring for 15 minutes, the layers were separated. The ether layer was dried and evaporated. The residue was dissolved in ethyl acetate then extracted by aqueous sodium bisulfite. The aqueous layer was removed, washed with ether and made basic with solid carbonate. After extraction with ethyl ether the extracts were evaporated. The residue was heated in 6 N hydrochloric acid for 1 hour. The solution was made basic and the product extracted into chloroform. After purification over silica with 5% methanol-chloroform, 6-formyl-7,8-methylenedioxy-1-phenyl-2,3,4,5-tetrahydro- 1H-3-benzazepine was obtained as an oil.

reactant | 6-bromo-7,8-methylenedioxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.0225 mole, 7.8 g | BrC1=C2C(=CC=3C(CNCCC31)C3=CC=CC=C3)OCO2 | C17H16BrNO2
reactant | butyl lithium | 6.07 mole, 2.2 ml | C(CCC)[Li]
reactant | N-methylformanilide | 10 ml | CN(C1=CC=CC=C1)C=O | C8H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 6-formyl-7,8-methylenedioxy-1-phenyl-2,3,4,5-tetrahydro- 1H-3-benzazepine | C(=O)C1=C2C(=CC=3C(CNCCC31)C3=CC=CC=C3)OCO2 | C18H17NO3
